US07750002B2
Amine preparation: 1-BOC-4-piperidone (500 mg) and 2-methoxyethylamine (218 μL) were stirred in MeOH at room temperature. After 16 h, sodium borohydride was added (190 mg) carefully. After a further 3 h, the reaction mixture was diluted with DCM, washed with water, dried (MgSO4) and the solvent removed in vacuo to yield 4-(2-methoxy-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester (560 mg).

reactant | 1-BOC-4-piperidone | 500 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | 2-methoxyethylamine | 218 μL | COCCN | C3H9NO
reactant | sodium borohydride | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(2-methoxy-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester | 560 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NCCOC | C13H26N2O3
